US07427635B2
2-{(2S,3S)-2-[2-tert-Butoxycarbonylamino-2-(4-methylsulfanyl-phenyl)-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester (110 mg, 0.18 mmol) was dissolved at 0° C. in a 30% solution of trifluoroacetic acid in dichloromethane. After 2.5 hours the reaction mixture was partitioned between ethyl acetate and aqueous saturated sodium bicarbonate. The aqueous layer was adjusted to pH=8 by the addition of solid sodium bicarbonate and then extracted twice with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated to an off white solid. The solid was dissolved in a solution of diisopropyl ethyl amine (0.16 mL, 0.92 mmol) in dichloromethane (5 mL) and the resulting solution was added in a dropwise manner to a 0° C. mixture of diphosgene (16 μL, 0.13 mmol) in dichloromethane (5 mL). The mixture was stirred for 20 minutes and then partitioned between dichloromethane and water. The organic layer was dried over sodium sulfate, filtered and concentrated to the crude product. After purification by chromatography over silica gel gradient eluted up to 3:2 ethyl acetate/hexanes and precipitation of the material obtained from chromatography from dichloromethane with excess hexanes, 2-{(2S,3S)-2-[4-(4-methylsulfanyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester, was isolated as a white amorphous solid (45 mg, 46%).

reactant | 2-{(2S,3S)-2-[2-tert-Butoxycarbonylamino-2-(4-methylsulfanyl-phenyl)-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | 0.18 mmol, 110 mg | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC(C(C1=CC=C(C=C1)SC)NC(=O)OC(C)(C)C)=O)=O | C29H34N4O6S2
reactant | diisopropyl ethyl amine | 0.92 mmol, 0.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphosgene | 0.13 mmol, 16 μL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-{(2S,3S)-2-[4-(4-methylsulfanyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)N1C(NC(C1=O)C1=CC=C(C=C1)SC)=O)=O | C25H24N4O5S2
